US05543396
Di(4-fluorophenyl) Piperidine-2-phosphonate Hydrochloride (HCl.PipP (OPh-4-F)2, 5).
A mixture of piperidine trimer (4.5 g, 54 mmole) and di(4-fluorophenyl)phosphite (14.8 g, 55 mmole) was heated at 90°-100° C. for 3 h under nitrogen. The resulted oil was cooled and dissolved in a mixture of 50 mL CH2Cl2 and 50 mL ether. The solution was saturated with dry HCl, the oil was separated and solidified after several hours. The solid was filtered, washed with ether and dried. The hygroscopic material was stirred in 200 mL dry ether for several hours and the yellowish solid was filtered and dried. The product was obtained in 54% yield (11.6 g) and used for subsequent reaction: mp. 155°-165° C. (dec); 1H NMR (D2O) δ7.2-6.8 (m, 8H), 3.6-2.9 (m, 3H), 2.2-1.4 (m, 6H); MS (FAB) m/e 354 (M-Cl)+. Anal. (exact mass, HRMS) calcd. for C17H19N1O3P1Cl2 m/e 354.1070, found 354.1098.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | di(4-fluorophenyl)phosphite | 55 mmole, 14.8 g | FC1=CC=C(C=C1)OP(OC1=CC=C(C=C1)F)[O-]
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 50 mL | CCOCC | C4H10O
product | Di(4-fluorophenyl) Piperidine-2-phosphonate Hydrochloride | 54% yield | Cl.N1C(CCCC1)P(OC1=CC=C(C=C1)F)(=O)OC1=CC=C(C=C1)F | InChI=1S/C17H18F2NO3P.ClH/c18-13-4-8-15(9-5-13)22-24(21,17-3-1-2-12-20-17)23-16-10-6-14(19)7-11-16;/h4-11,17,20H,1-3,12H2;1H
